US06538004B2
4-(4-fluoro-3-iodophenyl)-1-methyl-1,2,4,9-tetrahydropyrano[3,4-b]pyrazolo[4,3-e]pyridine-3,5(6H,8H)-dione
2H-Pyran-3,5(4H,6H)-dione (0.085 g, 0.75 mmol), 3-iodo-4-fluoro-benzaldehyde (0.182 g, 0.75 mmol) and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.084g, 0.75 mmol) were processed as described in Example 26C to provide 0.23 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 3.5 (s, 3H), 4.0 (s, 2H), 4.52 (q, 2H), 4.92 (s, 1H), 7.1 (t, 1H), 7.18 (m, 1H), 7.55 (dd, 1H), 9.62 (bs, 1H), 10.1 (s, 1H); MS (ESI−) m/z 440 (M−H)−; Anal. calcd for C16H13N3FIO3.C2H5OH: C, 44.37;H, 3.93; N, 8.62. Found: C, 44.38;H, 3.89; N, 8.74.

reactant | 2H-Pyran-3,5(4H,6H)-dione | 0.75 mmol, 0.085 g | O1CC(CC(C1)=O)=O | C5H6O3
reactant | 3-iodo-4-fluoro-benzaldehyde | 0.75 mmol, 0.182 g | IC=1C=C(C=O)C=CC1F | C7H4FIO
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 0.75 mmol, 0.084g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-(4-fluoro-3-iodophenyl)-1-methyl-1,2,4,9-tetrahydropyrano[3,4-b]pyrazolo[4,3-e]pyridine-3,5(6H,8H)-dione | 0.23 g | FC1=C(C=C(C=C1)C1C2=C(NC3=C1C(NN3C)=O)COCC2=O)I | C16H13FIN3O3
